US07834021B2
8-(6-Azetidin-1-ylpyridin-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol.
2-azetidin-1-yl-5-bromopyridine (64 mg, 0.30 mmol) was dissolved in dry THF (1.5 mL) and cooled to −78° C., followed by the addition of n-BuLi (0.196 mL, 1.6 M in hexanes). Thirty minutes later, a solution of 1,4-cyclohexanedione mono-ethylene ketal (44.6 mg, 0.286 mmol) in dry THF (0.2 mL) was added dropwise at −78° C. with constant stirring. One hour later, the reaction was quenched with NH4Cl (aq) and slowly warmed to rt. The aqueous layer was extracted with CH2Cl2×3, dried, filtered and concentrated to give a crude, which was purified by flash column chromatography (100% EtOAc) to provide 35 mg (43%) of white solid product. MS (M+H+)=291.1.

reactant | 2-azetidin-1-yl-5-bromopyridine | 0.30 mmol, 64 mg | N1(CCC1)C1=NC=C(C=C1)Br | C8H9BrN2
reactant | n-BuLi | 1.6 M, 0.196 mL | [Li]CCCC
reactant | 1,4-cyclohexanedione mono-ethylene ketal | 0.286 mmol, 44.6 mg | C1COC2(CCC(CC2)=O)O1 | C8H12O3
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | 8-(6-Azetidin-1-ylpyridin-3-yl)-1,4-dioxaspiro[4.5]decan-8-ol | 35 mg, 43% | N1(CCC1)C1=CC=C(C=N1)C1(CCC2(OCCO2)CC1)O | C16H22N2O3
